US06794397B2
6-Chloro-N-(2,4-dimethoxyphenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 2,4-dimethoxyaniline as described in Example 1. The reaction mixture was filtered to remove the precipitate and the filtrate was evaporated. The resulting solid was purified by CH2Cl2/hexane recrystallization to give a light purple solid in a yield of 59%. 1H NMR (DMSO-d6): 9.77 (s, 1H), 8.93 (s, 1H), 8.35-8.31 (m, 1H), 7.68 (d, J=7.8, 1H), 7.46 (d, J=9.0, 1H), 6.67 (d, J=2.4, 1H), 6.57-6.53 (m, 1H), 3.80 (s, 3H), 3.78 (s, 3H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 2,4-dimethoxyaniline | COC1=C(N)C=CC(=C1)OC | C8H11NO2
product | 6-Chloro-N-(2,4-dimethoxyphenyl)-3-pyridinecarboxamide | yield of 59% | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)OC)OC | C14H13ClN2O3
